US08686048B2
Intermediate 70: 3′-(ethylthio)-2-fluorobiphenyl-4-amine
The title compound (430 mg) was prepared from 4-bromo-3-fluoroaniline (300 mg, 1.6 mmol) and 3-(ethylthio)phenylboronic acid (370 mg, 2.0 mmol) as a yellow liquid.

reactant | 4-bromo-3-fluoroaniline | 1.6 mmol, 300 mg | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | 3-(ethylthio)phenylboronic acid | 2.0 mmol, 370 mg | C(C)SC=1C=C(C=CC1)B(O)O | C8H11BO2S
product | 3′-(ethylthio)-2-fluorobiphenyl-4-amine | 430 mg | C(C)SC=1C=C(C=CC1)C1=C(C=C(C=C1)N)F | C14H14FNS
